US09227985B2
Step 1. 4-Chloro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
A mixture of 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.3 g, 6.3 mmol), N-chlorosuccinimide (0.93 g, 7.0 mmol) and THF (6.6 mL) was stirred at 70° C. for 3 h. The mixture was extracted with EtOAc, dried and concentrated under reduced pressure. The sub-title compound was purified by chromatography on silica gel using 40% EtOAc in hexanes gave the desired compound, 1.456 g, 95%.

reactant | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 6.3 mmol, 1.3 g | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | N-chlorosuccinimide | 7.0 mmol, 0.93 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | THF | 6.6 mL | C1CCOC1 | C4H8O
product | 4-Chloro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | ClC=1C=NN(C1B1OC(C(O1)(C)C)(C)C)C | C10H16BClN2O2
